US08492397B2
To a solution of (S)-(−)-1,1,1-trifluoro-2-propanol (1.95 g) in CHCl3 (30 ml) was added 4-nitrophenyl chloroformate (5.16 g) and pyridine (135 g) at room temperature. After 1-hour stirring at 60° C., the resulting mixture was cooled to room temperature. To the resulting mixture was added 2-(dimethylamino)ethanol (1.52 g) and was stirred at room temperature for 1 hour. The mixture was poured into 1 M aqueous solution of HCl and extracted with CHCl3. The extract was washed with water and then dried over Na2SO4 and concentrated. The residue was purified with silica gel column chromatography (eluent:hexane/EtOAc=1/0˜50/50) to give 4-nitrophenyl (2S)-1,1,1-trifluoropropan-2-yl carbonate as a pale yellow oil.

reactant | (S)-(−)-1,1,1-trifluoro-2-propanol | 1.95 g | FC([C@H](C)O)(F)F | C3H5F3O
reactant | 4-nitrophenyl chloroformate | 5.16 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-(dimethylamino)ethanol | 1.52 g | CN(CCO)C | C4H11NO
reactant | HCl | Cl | ClH
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 135 g | N1=CC=CC=C1 | C5H5N
product | 4-nitrophenyl (2S)-1,1,1-trifluoropropan-2-yl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(O[C@H](C(F)(F)F)C)=O | C10H8F3NO5
